US07265246B2
Combine 3,4-difluorobenzeneboronic acid (1.0 g, 5.2 mmol), methyl-4-bromobenzoate (0.241 g, 1.73 mmol), Pd(OAc)2 (0.019 g, 0.086 mmol), tetrabutylammonium bromide (0.111 g, 0.345 mmol), and potassium phosphate (0.733 g, 3.454 mmol). Purge the reaction vessel with argon and add anhydrous dimethylformamide (20 mL) to the reaction mixture. Heat the sealed reaction vessel to 120° C. with stirring until completion. Cool the reaction to room temperature, dilute with ethyl acetate, and filter through a short plug of celite with additional ethyl acetate. Wash organics with water, dry over magnesium sulfate, filter, and evaporate. Purification by flash column chromatography yields 3′,4′-difluorobiphenyl-4-carboxylic acid methyl ester as a yellow solid. Dissolve the purified ester in dioxane (45 mL) and add an equal volume of 1M aqueous sodium hydroxide. Heat the reaction vessel to 60° C. with stirring until completion. Remove the solvent by evaporation. Dissolve the residue in dichloromethane and wash with 1N aqueous hydrochloric acid. Dry the organics over magnesium sulfate, filter and evaporate to yield 0.048 g (12%) of the title compound. MS (m/e): 235 (M+).

reactant | 3,4-difluorobenzeneboronic acid | 5.2 mmol, 1.0 g | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | methyl-4-bromobenzoate | 1.73 mmol, 0.241 g | COC(C1=CC=C(C=C1)Br)=O | C8H7BrO2
reactant | potassium phosphate | 3.454 mmol, 0.733 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tetrabutylammonium bromide | 0.345 mmol, 0.111 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd(OAc)2 | 0.086 mmol, 0.019 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3′,4′-difluorobiphenyl-4-carboxylic acid methyl ester | COC(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C14H10F2O2
